US09233974B2
To a solution of (2S,4S)-1-tert-butyl 2-methyl 4-cyanopyrrolidine-1,2-dicarboxylate (9.0 g, 35.4 mmol) in MeOH (196 mL) was added HCl (4M in 1,4-dioxane, 100 mL, 403 mmol). The solution was stirred at room temperature for 16 h and concentrated in vacuo. The crude intermediate was dissolved in EtOAc (180 mL) and basified with aqueous bicarbonate (sat.). Di-tert-butyl dicarbonate (8.5 g, 38.9 mmol) was added and the biphasic solution was stirred at room temperature for 12 h. The layers were then separated and the aqueous layer was back extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated. The crude oil was purified by silica gel chromatography (15% to 40% to 100% EtOAc/Hexanes) to provide (2S,4S)-1-tert-butyl 2,4-dimethyl pyrrolidine-1,2,4-tricarboxylate (9.56 g, 94%).

reactant | (2S,4S)-1-tert-butyl 2-methyl 4-cyanopyrrolidine-1,2-dicarboxylate | 35.4 mmol, 9.0 g | C(#N)[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H18N2O4
reactant | HCl | 403 mmol, 4M, 100 mL | Cl | ClH
reactant | Di-tert-butyl dicarbonate | 38.9 mmol, 8.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | MeOH | 196 mL | CO | CH4O
product | (2S,4S)-1-tert-butyl 2,4-dimethyl pyrrolidine-1,2,4-tricarboxylate | 9.56 g, 94% | N1([C@@H](C[C@@H](C1)C(=O)OC)C(=O)OC)C(=O)OC(C)(C)C | C13H21NO6
